Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
dysuria, hypotension
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
The patient is a ___ y/o ___ F with no
significant PMHx who was transferred here from OSH ED with
urosepsis.

The patient endorses a 1 week history of right lower back pain 
as
well as dysuria. She endorses associated headache and chills 
with
subjective fevers. She also endorses 2 days of N/V. She 
presented
to ___, where evaluation was notable for positive
UA and CT scan showing evidence of pyelonephritis. Course there
was notable for hypotension for which she was given 5L IV and
ultimately required norepinephrine. She was treated with
vancomycin, ceftriaxone, flagyl, and cefepime. Tm at ___ was 102.9. They did not have any ICU beds, so she was
transferred here. In the ED here, she was weaned off of pressors
and remained stable. She was admitted to the floor. 

ED Course:
Initial VS: 98.5 72 124/80 16 98% RA 
Labs significant for WBG 15.6. UA with few bacteria, >182 WBCs.
Mild transaminitis and alk phos elevation. Albumin 2.8. Lactate
1.1. Flu negative.
Imaging: CXR with findings compatible with RLL PNA or 
aspiration.
OSH CT with findings as above.
Meds given: no new meds given in our ED

ED Exam:
Fatigued, pale
Suprapubic tenderness, not peritonitic
Lungs clear, normal cardiac exam

VS prior to transfer: 98.1 80 107/66 16 99% RA  

On arrival to the floor, the patient reports that she feels much
better after getting above treatments. Her headache and nausea
have resolved. She does still feel some lightheadedness but
states that this is significantly improved from prior. Of note,
her CXR here did mention possibility of PNA; however, the 
patient
denies any cough or shortness of breath. She also denies any
recent URI symptoms, including sore throat, rhinorrhea, or sinus
congestion. While she does endorse previous headache (which has
resolved), she denies any neck stiffness.

 
Past Medical History:
none
 
Social History:
___
Family History:
 Mother with DM. Father with HTN.
 
Physical Exam:
ADMISSION EXAM:
VS - 98.5 PO 127 / 79 88 18 99 Ra 
GEN - Alert, NAD
HEENT - NC/AT, MMM, face symmetric
NECK - Supple
CV - RRR, no m/r/g
RESP - CTA B, breathing comfortably
ABD - S/ND, BS present, TTP in the lower abdomen without r/g
EXT - No ___ edema or calf tenderness
SKIN - No apparent rashes
NEURO - Nonfocal, moving all extremities equally and with 
purpose
PSYCH - Calm, appropriate

DISCHARGE EXAM:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, mild distention, non-tender to palpation. 
Bowel sounds present.  No HSM
GU: Mild tenderness suprapubic area.
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
ADMISSION LABS:
___ 01:05AM BLOOD WBC-15.6* RBC-3.63* Hgb-12.0 Hct-37.0 
MCV-102* MCH-33.1* MCHC-32.4 RDW-11.8 RDWSD-44.3 Plt ___
___ 01:05AM BLOOD Neuts-75.9* Lymphs-9.7* Monos-13.6* 
Eos-0.2* Baso-0.2 Im ___ AbsNeut-11.81* AbsLymp-1.51 
AbsMono-2.11* AbsEos-0.03* AbsBaso-0.03
___ 01:05AM BLOOD ___ PTT-25.1 ___
___ 01:05AM BLOOD Glucose-164* UreaN-8 Creat-0.8 Na-140 
K-4.6 Cl-110* HCO3-21* AnGap-9*
___ 01:05AM BLOOD ALT-42* AST-58* AlkPhos-109* TotBili-0.6
___ 01:05AM BLOOD Albumin-2.8* Calcium-6.9* Phos-2.4* 
Mg-1.7
___ 01:05AM BLOOD HBsAg-POS* HBsAb-NEG HBcAb-POS* HAV 
Ab-POS*
___ 01:05AM BLOOD HCV Ab-NEG
___ 01:18AM BLOOD Lactate-1.1

DISCHARGE LABS:
___ 06:18AM BLOOD WBC-7.7 RBC-4.12 Hgb-13.6 Hct-40.4 MCV-98 
MCH-33.0* MCHC-33.7 RDW-11.9 RDWSD-42.8 Plt ___
___ 05:54AM BLOOD Glucose-106* UreaN-6 Creat-0.7 Na-143 
K-4.7 Cl-103 HCO3-28 AnGap-12
___ 05:54AM BLOOD ALT-39 AST-31 AlkPhos-88 TotBili-0.4
___ 05:54AM BLOOD Calcium-7.9* Phos-3.2 Mg-2.0

CXR: In comparison with the study of ___, patient has 
taken a better 
inspiration.  Cardiac silhouette is within normal limits and 
there is now no 
evidence of pulmonary vascular congestion, pleural effusion, or 
acute focal 
pneumonia. 
 
Brief Hospital Course:
___ y/o ___ F with no
significant PMHx who was transferred here from OSH ED with
urosepsis/pyelonephritis.

# UROSEPSIS:
# PYELONEPHRITIS:
Pt with fever, tachycardia, and hypotension at OSH requiring
pressors transiently. UCx grew E coli pansensitive from 
___. No
symptoms of PNA. Flu
negative. She was treated with vancomycin, CTX, flagyl, and
cefepime at OSH. Improved and was off pressors in ___ ED so 
was sent to ___ floors where she was transitioned to 
ciprofloxacin for discharge for 10 day total course.

# TRANSAMINITIS
#HBV: Mild AST and ALT elevated that improved to normal during 
admission. Tested for hepatitis and found HBcAb positive and 
HBsAg positive consistent with chronic HBV. No evidence of 
cirrhosis on OSH CT scan. Patient did not know she had HBV and 
we discussed the diagnosis during admission. Discussed that she 
will need follow up for this condition.

# Hypophosphatemia: Mild and improved with repletion.

# Hypocalcemia: Mild. Corrects to 7.9.

# Hypoalbuminemia:
- nutrition c/s recommended Ensures and MVI w/ minerals

TRANSITIONAL ISSUES:
- Needs further evaluation for her hepatitis B (evaluation for 
treatment, monitoring for HCC etc)
- Last day antibiotics ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*14 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Urosepsis, E coli pan-sensitive
Pyelonephritis
Chronic hepatitis B

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital for a severe UTI which 
involved your kidney (pyelonephritis). You were given IV 
antibiotics and IV fluids and you improved.

Please take your antibiotics for 10 more days.

Sincerely,
Your ___ Team
 
Followup Instructions:
___